US04001447
Step b: 2-(p-chlorophenoxymethyl)-thiazole-5-carboxylic acid
A mixture of 10.9 of ethyl 2-(p-chlorophenoxymethyl)-thiazole-5-carboxylate, 165 ml of methanol, 10 ml of postassium hydroxide and 20 ml of water was refluxed for 30 minutes and was then cooled and extracted with ethyl acetate. The aqueous phase was acidified and 2-(p-chlorophenoxymethyl)-thiazole-5-carboxylic acid was extracted with ethyl acetate and then a mixture of chloroform-methanol. The combined extracts were dried and evaporated to dryness to obtain 7.9 g of a crystalline residue. The residue was crystallized from isopropanol to obtain 6.92 g of the desired acid and the latter in the form of its triethylamine salt was chromatographed over silica gel. Elution with first a 1-1 chloroform-ethyl acetate mixture and then a 90-10-1 methylene chloride-ethyl acetate-acetic acid mixture gave 6.7 g of raw product. The latter was purified by sublimation at 190° C under reduced pressure and was crystallized from isopropanol containing 10% water to obtain 5.23 g of 2-(p-chlorophenoxymethyl)-thiazole--carboxylic acid melting at 215° C.

reactant | ethyl 2-(p-chlorophenoxymethyl)-thiazole-5-carboxylate | ClC1=CC=C(OCC=2SC(=CN2)C(=O)OCC)C=C1 | C13H12ClNO3S
reactant | methanol | 165 ml | CO | CH4O
reactant | hydroxide | 10 ml | [OH-]
solvent | water | 20 ml | O | H2O
product | 2-(p-chlorophenoxymethyl)-thiazole-5-carboxylic acid | 7.9 g | ClC1=CC=C(OCC=2SC(=CN2)C(=O)O)C=C1 | C11H8ClNO3S
